US07192970B2
Preparation of 2-(methoxycarbonyl)-3-[4-[2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthoxy)ethoxy]phenyl]propionic acid
To a solution of dimethyl 4-[2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthoxy)ethoxy]benzylmalonate (0.50 g, 1.07 mmol) in a mixture of methanol (4.3 ml) and tetrahydrofuran (2.1 ml) at 0° C. is added a 2 mol/L aqueous solution of sodium hydroxide (0.59 ml, 1.18 mmol). The mixture is stirred for 2 hours at room temperature, and then the solvent was removed under a vacuum. The residue is dissolved in saturated aqueous sodium bicarbonate (10 ml) and washed with ethyl acetate (10 ml). The aqueous solution is acidified to pH 2–3 with dilute hydrochloric acid and extracted with ethyl acetate (3×15 ml). The combined extracts are washed with water (20 ml) and brine (20 ml), dried over sodium sulfate, and concentrated. The residue is crystallized from ethyl acetate to give the title compound (0.45 g, 93%). HRMS calcd for C27H34O6: 454.5634. Found: 454.5636. MA calcd for C27H34O6: C, 71.34%; H, 7.54%. Found: C, 71.42%; H, 7.52%.

reactant | dimethyl 4-[2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthoxy)ethoxy]benzylmalonate | 1.07 mmol, 0.50 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)OCCOC1=CC=C(CC(C(=O)OC)C(=O)OC)C=C1)C | C28H36O6
reactant | sodium hydroxide | 1.18 mmol, 0.59 ml | [OH-].[Na+]
solvent | methanol | 4.3 ml | CO | CH4O
solvent | tetrahydrofuran | 2.1 ml | O1CCCC1 | C4H8O
product | 2-(methoxycarbonyl)-3-[4-[2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthoxy)ethoxy]phenyl]propionic acid | 0.45 g, 93% | COC(=O)C(C(=O)O)CC1=CC=C(C=C1)OCCOC1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C27H34O6
